US06313122B1
A. 2-[[(1-Benzylpyridinium-4-yl)carbonyl]amino]-N-(4-chlorophenyl)benzamide Bromide
Using the procedure described in Example 26, Part B, 2-(4-pyridinecarbonyl)amino-N-(4-chlorophenyl)benzamide (500 mg, 1.42 mmol) and benzyl bromide (0.25 mL, 2.13 mmol) yielded 538 mg (73%) of the title compound.

reactant | 2-(4-pyridinecarbonyl)amino-N-(4-chlorophenyl)benzamide | 1.42 mmol, 500 mg | N1=CC=C(C=C1)C(=O)NC1=C(C(=O)NC2=CC=C(C=C2)Cl)C=CC=C1 | C19H14ClN3O2
reactant | benzyl bromide | 2.13 mmol, 0.25 mL | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-[[(1-Benzylpyridinium-4-yl)carbonyl]amino]-N-(4-chlorophenyl)benzamide Bromide | 538 mg, 73% | [Br-].C(C1=CC=CC=C1)[N+]1=CC=C(C=C1)C(=O)NC1=C(C(=O)NC2=CC=C(C=C2)Cl)C=CC=C1 | InChI=1S/C26H20ClN3O2.BrH/c27-21-10-12-22(13-11-21)28-26(32)23-8-4-5-9-24(23)29-25(31)20-14-16-30(17-15-20)18-19-6-2-1-3-7-19;/h1-17H,18H2,(H-,28,29,31,32);1H
